US05314889
2-[(2-Indolyl)carbonylamino]-5-ethoxycarbonyl-4-phenylthiazole,
By carrying out the procedure according to Example 10 which is described above, the compound 2-[(1-acetyl-2-indolyl)carbonylamino]-4-phenyl-5-ethoxycarbonylthiazole (1.5 g) is prepared and dissolved in 100 ml of ethanol in the presence of 0.6 g of Na2CO3. The mixture is stirred at room temperature for 48 hours and then concentrated under vacuum. The residue is triturated in water and then in a minimum amount of dichloromethane, filtered and dried.

reactant | 2-[(1-acetyl-2-indolyl)carbonylamino]-4-phenyl-5-ethoxycarbonylthiazole | 1.5 g | C(C)(=O)N1C(=CC2=CC=CC=C12)C(=O)NC=1SC(=C(N1)C1=CC=CC=C1)C(=O)OCC | C23H19N3O4S
reactant | Na2CO3 | 0.6 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-[(2-Indolyl)carbonylamino]-5-ethoxycarbonyl-4-phenylthiazole | N1C(=CC2=CC=CC=C12)C(=O)NC=1SC(=C(N1)C1=CC=CC=C1)C(=O)OCC | C21H17N3O3S
